US08304419B2
To a solution of N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (65 mg, 0.134 mmol), Palladium dichlorobistriphenylphosphine(II) (7.01 mg, 0.013 mmol), copper(I)iodide (25.6 mg, 0.134 mmol) and TEA (0.019 ml, 0.134 mmol) in THF (5 ml) was bubbled 1-butyne (7.26 mg, 0.134 mmol) for 5 minutes and the reaction mixture was irradiated in a personal microwave reactor for 10 minutes at 120° C. The solvent was removed and the crude material was purified via reverse phase HPLC to give N-[(3-{[3-(1-butyn-1-yl)-5-cyanophenyl]oxy}-4-chloro-2-fluorophenyl)methyl]-4-chloro-1H-imidazole-5-carboxamide (17 mg, 0.037 mmol, 28% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.71 (br. s., 1H), 7.40 (s, 1H), 7.28-7.39 (m, 3H), 7.17 (s, 1H), 7.05 (s, 1H), 4.62 (s, 2H), 2.38 (q, 2H), 1.17 (t, 3H). LC-MS (ES+) m/z 457.14, [M+H].

reactant | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.134 mmol, 65 mg | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C18H10BrCl2FN4O2
reactant | 1-butyne | 0.134 mmol, 7.26 mg | C#CCC | C4H6
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | copper(I)iodide | 0.134 mmol, 25.6 mg | [Cu]I
product | N-[(3-{[3-(1-butyn-1-yl)-5-cyanophenyl]oxy}-4-chloro-2-fluorophenyl)methyl]-4-chloro-1H-imidazole-5-carboxamide | 0.037 mmol, 17 mg, 28% yield | C(#CCC)C=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F | C22H15Cl2FN4O2
